US07285563B2
6-Aminoisoquinoline
Benzophenone imine (445 μL, 2.64 mmol) was added to a mixture of 6-bromoisoquinoline (500 mg, 2.4 mmol), BINAP (60 mg, 0.1 mmol), palladium acetate (12 mg, 0.05 mmol) and cesium carbonate (1.0 g, 3.07 mmol) in THF (10 ml) at room temperature. The mixture was degassed (N2×3) then heated at reflux under a nitrogen atmosphere for 16 hours. The reaction was then cooled to room temperature, partitioned between ethyl acetate (20 ml) and water (20 ml) and the aqueous phase extracted with ethyl acetate (20 ml). The combined organic phases were evaporated then re-dissolved in THF (15 ml). Hydrochloric acid (2N, aqueous, 4 ml) was added, then after stirring for 1 hour the THF was evaporated. The mixture was partitioned between ethyl acetate (20 ml) and 3M HCl (50 ml) and the aqueous phase washed with ethyl acetate (20 ml). The aqueous phase was basified (12N NaOH) then extracted with dichloromethane (3×50 ml). The combined organic phases were dried (Na2SO4) and evaporated to give the title compound (360 mg).

reactant | Benzophenone imine | 2.64 mmol, 445 μL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 6-bromoisoquinoline | 2.4 mmol, 500 mg | BrC=1C=C2C=CN=CC2=CC1 | C9H6BrN
reactant | cesium carbonate | 3.07 mmol, 1.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | palladium acetate | 0.05 mmol, 12 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 0.1 mmol, 60 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 6-Aminoisoquinoline | 360 mg | NC=1C=C2C=CN=CC2=CC1 | C9H8N2
